US07220744B2
(e) 2-Cyclopentyloxy-5-methylsulfamoyl-benzoic acid
To 2.68 mmol 2-cyclopentyloxy-5-methylsulfamoyl-benzoic acid methyl ester in 10 ml THF was added 20 mmol 2 M aq NaOH and the mixture was stirred at RT for 2 h. The mixture was then extracted twice with ether. The aqueous phase was acidified with 10% aq citric acid and extracted 3 times with ethyl acetate. The combined organic phases were dried with Na2SO4. Evaporation in vacuo followed by trituration in ether afforded the title compound as a white solid. MS (m/e): 298.3 ([M−H]−, 100%)

reactant | 2-cyclopentyloxy-5-methylsulfamoyl-benzoic acid methyl ester | 2.68 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OC1CCCC1)=O | C14H19NO5S
reactant | NaOH | 20 mmol, 2 M | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Cyclopentyloxy-5-methylsulfamoyl-benzoic acid | C1(CCCC1)OC1=C(C(=O)O)C=C(C=C1)S(NC)(=O)=O | C13H17NO5S
